US06867161B1
To an ethyl ether solution (12 ml) containing 3-[(ethoxycarbonyl)oxy]-1,2-nonadiene (424 mg, 2.0 mmol) and tetraisopropoxytitanium (0.89 ml, 3.0 mmol) was added at −78° C. an ethyl ether solution containing isopropylmagnesium bromide (6.0 mmol). The reaction liquid was heated to −50° C. over 30 minutes and stirred for 1 hour. The reaction liquid was given dropwise a tetrahydrofuran solution (4 ml) containing iodine (761 mg, 3.0 mmol). After heating to 0° C. over 1.5 hours, the reaction liquid was given 3N hydrochloric acid (4 ml) and separated into layers. The organic layer was washed with a saturated aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium hydrogen carbonate, dried with anhydrous magnesium sulfate, and freed of solvent by vacuum distillation. The residues were purified by silica gel chromatography. There was obtained 385 mg of (E)-2-iodo-1,3-nonadiene as an iodinated compound (yield: 77%).

reactant | 3-[(ethoxycarbonyl)oxy]-1,2-nonadiene | 2.0 mmol, 424 mg | C(C)OC(=O)OC(=C=C)CCCCCC | C12H20O3
reactant | isopropylmagnesium bromide | 6.0 mmol | C(C)(C)[Mg]Br
reactant | iodine | 3.0 mmol, 761 mg | II | I2
reactant | hydrochloric acid | 3N, 4 ml | Cl | ClH
catalyst | tetraisopropoxytitanium | 3.0 mmol, 0.89 ml | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether | 12 ml | C(C)OCC | C4H10O
product | (E)-2-iodo-1,3-nonadiene | 385 mg | IC(=C)\C=C\CCCCC | C9H15I
